US07956083B2
4-bromo-2,6-difluorophenol (2 g, 9.57 mmol) was dissolved in DMF (19 mL) and to this was added Cs2CO3 (4.37 g, 13.34 mmol) and the solution was stirred for 15 minutes before benzyl bromide (1.64 g, 9.57 mmol) was added. After 2 hours at room temperature the mixture was partitioned between ethyl acetate (100 mL)/water (100 mL), the layers were separated and the aqueous extracted with ethyl acetate (100 mL). The combined organics were washed with brine (2×50 mL) and water (2×50 mL) and dried over MgSO4. The crude material (2.67 g) was filtered through a pad of silica and eluted with hexane to afford 4-bromo-2,6-difluorophenyl phenylmethyl ether after evaporation of the solvent (2.38 g, 83%).

reactant | 4-bromo-2,6-difluorophenol | 9.57 mmol, 2 g | BrC1=CC(=C(C(=C1)F)O)F | C6H3BrF2O
reactant | Cs2CO3 | 13.34 mmol, 4.37 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 9.57 mmol, 1.64 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 19 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2,6-difluorophenyl phenylmethyl ether | C1(=CC=CC=C1)COC1=C(C=C(C=C1F)Br)F | C13H9BrF2O
